US05190689
0.1 mol of 1-(4-propylcyclohexyl)-2-(4'-pentylbiphenyl-4-yl)-ethanol is stirred with 0.1 mol of sodium hydride in 350 ml of toluene at room temperature until evolution of hydrogen is complete. 0.1 mol of allyl 9-bromopelargonate (obtained from allyl bromide and 9-bromopelargonic acid in dimethylformamide using potassium carbonate) is then added, and the mixture is kept at 60° C. for 3 hours. After cooling, the mixture is washed with water and dried over sodium sulfate, and the solvent is removed under reduced pressure to give allyl 9-(1-(4-propylcyclohexyl)-2-(4'-pentylbiphenyl-4-yl)-ethoxy)-pelargonate.

reactant | 1-(4-propylcyclohexyl)-2-(4'-pentylbiphenyl-4-yl)-ethanol | 0.1 mol | C(CC)C1CCC(CC1)C(CC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC)O | C28H40O
reactant | sodium hydride | 0.1 mol | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | allyl 9-bromopelargonate | 0.1 mol | BrCCCCCCCCC(=O)OCC=C | C12H21BrO2
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | allyl 9-(1-(4-propylcyclohexyl)-2-(4'-pentylbiphenyl-4-yl)-ethoxy)-pelargonate | C(CC)C1CCC(CC1)C(CC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC)OCCCCCCCCC(=O)OCC=C | C40H60O3
